US04728658
N-(2-amino-4,5-dichlorophenyl)-4-pyridinecarboxamide-1-oxide
A suspension of 4-pyridinecarboxylic acid-1-oxide (2.84 g, 20.4 mmol) and 1,1'-carbonyldiimidazole (3.64 g, 22.4 mmol) in dry dimethylformamide (50 ml) was stirred for 4 hours under an air-lock and the resulting solution added dropwise over 1 hour to a stirred solution of 4,5-dichloro-1,2-benzenediamine (7.23 g, 40.8 mmol) in dichloromethane (50 ml) under air lock. After 2.5 days, the mixture was evaporated in vacuo and the residue purified by chromatography [SiO2 ; dichloromethane-methanoltriethylamine (100:3:1)]. Recrystallisation from ethanol-methanol gave the title compound (1.00 g), m.p. >300°. The compound exhibited infra-red spectral bands at 859, 1182, 1260, 1534, 1671, 3253, 3335 and 3417 cm-1. The NMR spectrum of the compound in DMSO-d6 exhibited the following signals: (δ in ppm from TMS) broad 2 proton signal at 5.5; 1 proton singlet at 6.97; 1 proton singlet at 7.42; 2 proton doublet (J7 Hz) at 7.96; 2 proton doublet (J7 Hz) at 8.37 and broad 1 proton singlet at 9.9.

reactant | 4-pyridinecarboxylic acid-1-oxide | 20.4 mmol, 2.84 g | [N+]1(=CC=C(C=C1)C(=O)O)[O-] | C6H5NO3
reactant | 1,1'-carbonyldiimidazole | 22.4 mmol, 3.64 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4,5-dichloro-1,2-benzenediamine | 40.8 mmol, 7.23 g | ClC=1C=C(C(=CC1Cl)N)N | C6H6Cl2N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-amino-4,5-dichlorophenyl)-4-pyridinecarboxamide-1-oxide | 1.00 g | NC1=C(C=C(C(=C1)Cl)Cl)NC(=O)C1=CC=[N+](C=C1)[O-] | C12H9Cl2N3O2
